US05348964
2-(1-Piperidyl)ethyl heptyl sulfide, hydrochloride salt
Generate sodium ethoxide by carefully adding sodium metal (1.4 g, 60 mmol) to absolute ethanol (50 mL). Add 1/2 of the sodium ethoxide (30 mL) to a solution of N-(2-chloroethyl)-piperidine hydrochloride (5.0 g, 27.2 mmol) in absolute ethanol. Add the other 1/2 of the sodium ethoxide (30 mL) to a solution of heptyl mercaptan (4.6 mL, 30 mmol) in absolute ethanol. Mix the two and stir at room temperature overnight. Concentrate in vacuo, partition between water and ethyl acetate and separate the organic phase. Extract the aqueous phase with ethyl acetate (2×50 mL), combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to yield 6.34 g yellow oil. Dissolve the oil in ethyl ether, filter and treat with anhydrous hydrochloric acid. Collect the resulting white solid by vacuum filtration (5.6 g) and recrystallize (ethyl acetate/isopropanol) to yield 3.12 g of the title compound as white crystals; mp 169°-70° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 60 mmol, 1.4 g | [Na] | Na
reactant | sodium ethoxide | 30 mL | [O-]CC.[Na+]
reactant | N-(2-chloroethyl)-piperidine hydrochloride | 27.2 mmol, 5.0 g | Cl.ClCCN1CCCCC1
reactant | sodium ethoxide | 30 mL | [O-]CC.[Na+]
reactant | heptyl mercaptan | 30 mmol, 4.6 mL | C(CCCCCC)S | C7H16S
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(1-Piperidyl)ethyl heptyl sulfide, hydrochloride salt | 6.34 g | Cl.C(CCCCCC)SCCN1CCCCC1 | InChI=1S/C14H29NS.ClH/c1-2-3-4-5-9-13-16-14-12-15-10-7-6-8-11-15;/h2-14H2,1H3;1H
